US07700594B2
Methyl trans-4-(2-amino-5-iodo-4-oxo-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-7-yl)cyclohexanecarboxylate
A solution of methyl trans-4-(2-amino-4-oxo-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-7-yl)cyclohexanecarboxylate (0.200 g, 0.000686 mol) and N-iodosuccinimide (0.278 g, 0.00124 mol) in anhydrous DMF (4.0 mL) was stirred at rt for 48 h. The reaction was concentrated in vacuo then partitioned between H2O and EtOAC. The aqueous material was re-extracted with EtOAc (3×) and the combined organic fractions were washed with H2O (2×), Na2S2O3 (2×) and brine (1×). The aqueous was re-extracted with CHCl3 and combined with the EtOAc fractions dried over Na2SO4, filtered and concentrated in vacuo resulting in 229 mg, (79.9% yield) of the title compound as a light orange solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.34-1.65 (m, 4H), 1.88-2.06 (m, 4H), 2.33-2.45 (m, 1H), 2.91-3.01 (m, 1H), 3.61 (s, 3H), 6.17 (s, 2H) and 10.82 (br. s., 1H); MS (ES+): m/z 417.82 [MH+].

reactant | methyl trans-4-(2-amino-4-oxo-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-7-yl)cyclohexanecarboxylate | 0.000686 mol, 0.200 g | NC1=NN2C(C(N1)=O)=CN=C2[C@@H]2CC[C@H](CC2)C(=O)OC | C13H17N5O3
reactant | N-iodosuccinimide | 0.00124 mol, 0.278 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
product | Methyl trans-4-(2-amino-5-iodo-4-oxo-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-7-yl)cyclohexanecarboxylate | 79.9% yield | NC1=NN2C(C(N1)=O)=C(N=C2[C@@H]2CC[C@H](CC2)C(=O)OC)I | C13H16IN5O3
